US05405851
A solution of N-(4-cyanophenyl)-N-(5,6,7,8-tetrahydro-1-naphthyl)-2,2,2-trifluoro acetamide (10.7 g, 31.1 mmol), N-bromosuccinimide (6.6 g, 37 mmol), and AIBN (200 mg, 1.2 mmol) in CCl4 (300 ml) was stirred at reflux under nitrogen for 1 hour. After cooling the solution was filtered, concentrated in vacuo to a volume of ~ 25 ml, and applied to a column of silica gel. Elution with ethyl acetate:hexane (1:10) gave a mixture of benzylic bromides (10.7 g). A solution of the bromides and Li2CO3 (5.0 g, 68 mmol) in DMF (50 ml) was stirred at 110°-120° C. under nitrogen for 3 hours and then overnight at room temperature. The solution was concentrated in vacuo and the residue taken up in methylene chloride (150 ml) and washed with water (50 ml). The aqueous phase was separated, extracted with more methylene chloride (100 ml), and the combined organic solutions were then washed with a small volume of water, dried (K2CO3) and concentrated in vacuo. The residue was purified by chromatography on silica gel eluting with ethyl acetate:hexane (1:13) to give N-(4-cyanophenyl)-N-(7,8-dihydro-1-naphthyl)-2,2,2-trifluoroacetamide and the corresponding 5,6,-dihydro isomer in a 3:1 ratio as determined by NMR (4.3 g). 1H NMR (DMSO-d6, 200 MHz) δ: 2.10-2.46 (m, 3H, CH2), 2.63-2.89 (m, 1H, CH2), 6.03-6.22 (m, 1H, CH), 6.41 (dt, J=10,2 Hz, 0.25H, CH), 6.48 (dt, J=10,2 Hz, 0.75H, CH), 7.08-7.33 (m, 3H, Ar), 7.41 (d, J=9 Hz, 2H, Ar), 7.64 (d, J=9 Hz, 2H, Ar). Anal. Calculated for C19H13F3N2O: C, 66.67; H, 3.83; N, 8.18. Found: C, 66.55; H, 3.86 ; N, 8.10.

reactant | N-(4-cyanophenyl)-N-(5,6,7,8-tetrahydro-1-naphthyl)-2,2,2-trifluoro acetamide | 31.1 mmol, 10.7 g | C(#N)C1=CC=C(C=C1)N(C(C(F)(F)F)=O)C1=CC=CC=2CCCCC12 | C19H15F3N2O
reactant | N-bromosuccinimide | 37 mmol, 6.6 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | AIBN | 1.2 mmol, 200 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | CCl4 | 300 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | N-(4-cyanophenyl)-N-(7,8-dihydro-1-naphthyl)-2,2,2-trifluoroacetamide | C(#N)C1=CC=C(C=C1)N(C(C(F)(F)F)=O)C1=CC=CC=2C=CCCC12 | C19H13F3N2O
